US07214673B2
Cyano-isobutyrylamino-acetic acid ethyl ester
Cool a solution of amino-cyano-acetic acid ethyl ester (19.0 g, 148 mmol) in CH2C12 (300 mL) to 0–5° C. under N2. Add pyridine (12.0 mL, 148 mmol) followed by isobutyric anhydride (24.6 mL, 148 mmol). Allow the reaction solution to warm to rt overnight until complete by TLC (EtOAc). Wash the solution with aqueous 1N HCl, water, aq. sat'd NaHCO3, then brine (150 mL each). Dry the organic layer over MgSO4, filter, and concentrate the filtrate to dryness in vacuo on a rotovapor to a solid. Triturate the solid with Et2O (500 mL), filter and dry (50° C. vacuum oven) to afford 22.0 g (75%) of the title compound: 1H NMR (300 MHz, DMSO-d6) δ 9.05 (d, 1H, J=7.32 Hz), 5.67 (d, 1H, J=7.32 Hz), 4.25–4.13 (m, 2H), 2.46 (dq, 1H, J=6.95 Hz), 1.21 (t, 3H, J=6.95 Hz), 1.03 (d, 6H, J=6.95 Hz). 13C NMR (75 MHz, DMSO-d6) δ 176.51, 164.13, 115.60, 62.33, 44.07, 33.29, 18.93, 18.86, 13.74. IR (CHCl3) 3425, 3028, 2975, 2933, 2905, 2874, 1757, 1687,1492, 1370, 1284, 1189 cm−1. HRMS (FAB+) M/z calculated for C9H15N2O3 (M+H) 199.1083 found 199.1075.

reactant | amino-cyano-acetic acid ethyl ester | 148 mmol, 19.0 g | C(C)OC(C(C#N)N)=O | C5H8N2O2
reactant | pyridine | 148 mmol, 12.0 mL | N1=CC=CC=C1 | C5H5N
reactant | isobutyric anhydride | 148 mmol, 24.6 mL | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Cyano-isobutyrylamino-acetic acid ethyl ester | 22.0 g, 75% | C(C)OC(C(NC(C(C)C)=O)C#N)=O | C9H14N2O3
